US07557213B2
1.12 g (3.61 mmol) of 2-(3,4-Dimethyl-benzoyl)-3-(pyridin-3-ylamino)-acrylic acid methyl ester was dissolved in 30 mL of diphenyl ether and the solution was heated at 250° C. After 2.5 h the solution was cooled to rt and 50 mL of hexane was added. The mixture was filtered and the solid washed with hexane to yield 0.67 g of 3-(3,4-Dimethyl-benzoyl)-1H-[1,5]naphthyridin-4-one as a brown solid.

reactant | 2-(3,4-Dimethyl-benzoyl)-3-(pyridin-3-ylamino)-acrylic acid methyl ester | 3.61 mmol, 1.12 g | COC(C(=CNC=1C=NC=CC1)C(C1=CC(=C(C=C1)C)C)=O)=O | C18H18N2O3
reactant | hexane | 50 mL | CCCCCC | C6H14
solvent | diphenyl ether | 30 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 3-(3,4-Dimethyl-benzoyl)-1H-[1,5]naphthyridin-4-one | 0.67 g | CC=1C=C(C(=O)C2=CNC3=CC=CN=C3C2=O)C=CC1C | C17H14N2O2
